US08044062B2
Potassium carbonate (1.00 g, 7.28 mmol) was added to a flask charged with 2-amino-8-ethyl-4-methyl-6-((trimethylsilyl)ethynyl)pyrido[2,3-d]pyrimidin-7(8H)-one (1.09 g, 3.64 mmol) in anhydrous methanol (15 mL). The reaction was stirred at room temperature under nitrogen for 16 h. The reaction was concentrated to one half volume and the yellow precipitate collected by vacuum filtration to afford 2-amino-8-ethyl-6-ethynyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one.

reactant | Potassium carbonate | 7.28 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-8-ethyl-4-methyl-6-((trimethylsilyl)ethynyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 3.64 mmol, 1.09 g | NC=1N=C(C2=C(N1)N(C(C(=C2)C#C[Si](C)(C)C)=O)CC)C | C15H20N4OSi
solvent | methanol | 15 mL | CO | CH4O
product | 2-amino-8-ethyl-6-ethynyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | NC=1N=C(C2=C(N1)N(C(C(=C2)C#C)=O)CC)C | C12H12N4O
